US07662771B2
5-[5-(2-hydroxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid
Combine 5-[5-(2-methoxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid methyl ester (2.99 g, 10.3 mmol), hydrobromic acid (50 mL, 48% in water), and acetic acid (50 mL, glacial) and heat to reflux under N2 for 3 hours. Add hydrobromic acid (20 mL, 48% in water) and continue heating at reflux under N2 overnight. Cool to room temperature, basify to pH 4 with 5N NaOH solution. Extract from aqueous layer with EtOAc (×3), wash combined organic layers with brine, dry combined organic layers over MgSO4 and concentrate to get 2.6 yellow oil. Concentrate, adsorb on SiO2 and purify the residue by flash chromatography on silica gel eluting with 3-5% MeOH/CH2Cl2. Add Et2O and concentrate (×5) in order to remove solvents and afford the title compound (2.16 g, 80%). MS (IS) 262 (M+1)+.

reactant | 5-[5-(2-methoxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid methyl ester | 10.3 mmol, 2.99 g | COC(CCCCN1N=NC=C1C1=C(C=CC=C1)OC)=O | C15H19N3O3
reactant | hydrobromic acid | 50 mL | Br | BrH
reactant | hydrobromic acid | 20 mL | Br | BrH
reactant | NaOH | 5N | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-[5-(2-hydroxy-phenyl)-[1,2,3]triazol-1-yl]-pentanoic acid | 2.16 g, 80% | OC1=C(C=CC=C1)C1=CN=NN1CCCCC(=O)O | C13H15N3O3
